US04086415
(c) 1-(2-chloroethyl)-1-nitroso-3-(2,3,4-tri-O-acetyl-β-D-xylopyranosyl)urea
1-(2-chloroethyl)-1-nitroso-3-(β-D-xylopyranosyl) urea (99 mg) was acetylated with acetic anhydride and pyridine in the same manner as that used in Example 1(b). Crystallization from a mixture of chloroform and n-propanol yielded the titled compound (42 mg). Yield 29.4%. mp. 124.5°-125° C (with decomposition). [α]D17 -19.0° (c 0.9, chloroform).

reactant | 1-(2-chloroethyl)-1-nitroso-3-(β-D-xylopyranosyl) urea | 99 mg | ClCCN(C(=O)N[C@H]1[C@H](O)[C@@H](O)[C@H](O)CO1)N=O | C8H14ClN3O6
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 1-(2-chloroethyl)-1-nitroso-3-(2,3,4-tri-O-acetyl-β-D-xylopyranosyl)urea | 42 mg, Yield 29.4% | ClCCN(C(=O)N[C@H]1[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)CO1)N=O | C14H20ClN3O9
